US08957062B2
Step A: 2-((1S,2R)-2-(piperidin-4-yl)cyclopropyl)ethanol
Benzyl 4-((1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate (7.50 g, 24.7 mmol) and palladium on activated carbon (10%, wet, 1.00 g) in methanol (130 mL) were stirred under an atmosphere of hydrogen (1 atm) at RT for 48 h. The mixture was filtered through Celite® and the filter cake washed with methanol. The filtrate was concentrated to dryness under reduced pressure to afford the compound as a white solid. 1H NMR (500 MHz, CDCl3) δ 3.74 (m, 2H), 3.15-3.05 (m, 2H), 2.56 (m, 2H), 1.91-1.87 (m, 2H), 1.76-1.72 (m, 3H), 1.36-1.28 (m, 3H), 0.92-0.87 (m, 1H), 0.84-0.76 (m, 1H), 0.67-0.61 (m, 1H), 0.60-0.56 (m, 1H), −0.18 (q, J=4.5 Hz, 1H).

reactant | Benzyl 4-((1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate | 24.7 mmol, 7.50 g | OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H25NO3
catalyst | palladium on activated carbon | 1.00 g | [Pd] | Pd
solvent | methanol | 130 mL | CO | CH4O
product | 2-((1S,2R)-2-(piperidin-4-yl)cyclopropyl)ethanol | N1CCC(CC1)[C@@H]1[C@@H](C1)CCO | C10H19NO
